US07498440B2
Preparation of 1-(1,3-dioxolan-2-ylmethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0574 g, 0.196 mmol) and 2-(bromomethyl)-1,3-dioxolane (0.040 mL, 0.386 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0112 g, 12.4%). EI-MS m/z 380(M+) Rt (1.64 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.196 mmol, 0.0574 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-(bromomethyl)-1,3-dioxolane | 0.386 mmol, 0.040 mL | BrCC1OCCO1 | C4H7BrO2
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-(1,3-dioxolan-2-ylmethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0112 g, 12.4% | [Br-].O1C(OCC1)C[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C24H30NO3.BrH/c26-24(20-7-3-1-4-8-20,21-9-5-2-6-10-21)23-11-14-25(15-12-23,16-13-23)19-22-27-17-18-28-22;/h1-10,22,26H,11-19H2;1H/q+1;/p-1
